US05834454
A mixture of ethyl 6-benzyloxy-4-chloro-1-(4-ethoxycarbonylbutyl)-1H-indolecarboxylate (15.0 g, 32.8 mmol), 35% hydrochloric acid (3.3 ml), acetic acid (240 ml), 10% palladium-carbon (1.5 g) and N,N-dimethylformamide (60 ml) was stirred under a hydrogen atmosphere at room temperature for about 1 hour. The catalyst was filtered off and the filtrate was poured into a cooled 5% aqueous sodium chloride solution and extracted twice with ethyl acetate. The extract solution was washed three times with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was crystallized from toluene to obtain 6.57 g of ethyl 4-chloro-1-(4-ethoxycarbonylbutyl)-6-hydroxy-1H-indolecarboxylate.

reactant | ethyl 6-benzyloxy-4-chloro-1-(4-ethoxycarbonylbutyl)-1H-indolecarboxylate | 32.8 mmol, 15.0 g | C(C1=CC=CC=C1)OC1=CC(=C2C=C(N(C2=C1)CCCCC(=O)OCC)C(=O)OCC)Cl | C25H28ClNO5
reactant | hydrochloric acid | 3.3 ml | Cl | ClH
reactant | acetic acid | 240 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | ethyl 4-chloro-1-(4-ethoxycarbonylbutyl)-6-hydroxy-1H-indolecarboxylate | 6.57 g | ClC1=C2C=C(N(C2=CC(=C1)O)CCCCC(=O)OCC)C(=O)OCC | C18H22ClNO5
